US07288537B2
A solution of (S)-3-[3-(4-Chloro-phenoxy)-azetidin-1-yl]-1-methoxymethyl-propylamine (1.6 g, 5.6 mmol) and (5-Ethyl-2-methyl-2H-pyrazol-3-yl)-carbamic acid phenyl ester (1.65 g, 6.7 mmol, see preparation below) in DMSO (7 ml) is stirred at ambient temperature for 4 hours, then partitioned between water and ethylacetate. The organic phase is washed again with water, dried over MgSO4 and evaporated. The crude product is purified by flash silica chromatography (elution with a 5:95 methanol/dichloromethane) to afford 1-{(S)-3-[3-(4-Chloro-phenoxy)-azetidin-1-yl]-1-methoxymethyl-propyl}-3-(5-ethyl-2-methyl-2H-pyrazol-3-yl)-urea. [M+H] 436.37.

reactant | (S)-3-[3-(4-Chloro-phenoxy)-azetidin-1-yl]-1-methoxymethyl-propylamine | 5.6 mmol, 1.6 g | ClC1=CC=C(OC2CN(C2)CC[C@@H](COC)N)C=C1 | C14H21ClN2O2
reactant | (5-Ethyl-2-methyl-2H-pyrazol-3-yl)-carbamic acid phenyl ester | 6.7 mmol, 1.65 g | C1(=CC=CC=C1)OC(NC=1N(N=C(C1)CC)C)=O | C13H15N3O2
solvent | DMSO | 7 ml | CS(=O)C | C2H6OS
product | 1-{(S)-3-[3-(4-Chloro-phenoxy)-azetidin-1-yl]-1-methoxymethyl-propyl}-3-(5-ethyl-2-methyl-2H-pyrazol-3-yl)-urea | ClC1=CC=C(OC2CN(C2)CC[C@@H](COC)NC(=O)NC=2N(N=C(C2)CC)C)C=C1 | C21H30ClN5O3
